US07064126B2
a) 2-[[(2S)-2-Methyloxiranyl]methoxy]-1H-isoindole-1,3(2H)-dione
A mixture of N-hydroxypthalimide (5.3 g), [(2S)-2-methyloxiran-2-yl]methyl 3-nitrobenzenesulfonate (5.9 g) and triethylamine (10.6 ml) in dichloromethane (15 ml) was stirred under nitrogen at ambient temperature for 24 hours. The reaction mixture was poured onto a silica column and eluted with dichloromethane to give the sub-title compound as a colourless solid (3.1 g).

reactant | N-hydroxypthalimide | 5.3 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | [(2S)-2-methyloxiran-2-yl]methyl 3-nitrobenzenesulfonate | 5.9 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@]1(OC1)C | C10H11NO6S
reactant | triethylamine | 10.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-[[(2S)-2-Methyloxiranyl]methoxy]-1H-isoindole-1,3(2H)-dione | 3.1 g | C[C@@]1(OC1)CON1C(C2=CC=CC=C2C1=O)=O | C12H11NO4
